US04990523
N-Butyl-1,4-benzenedisulfonamide
The reaction flask was charged with 10 g (0.039 mole) of 4-(sulfonyl)benzenesulfonyl chloride prepared by a procedure described in J. Med. Chem., 6 pp. 307-11 (1963) in 7 ml acetonitrile. A dropping funnel was charged with 8.8 g (0.12 mole) of butylamine and the amine was added dropwise, allowing the temperature to rise. The mixture was stirred for three hours and then concentrated to a thick residue. The residue was slurried with 100 ml water and the mixture filtered to collect a white solid. After drying, the weight of solid was 8.0 g (70% yield), mp 164°-167° C. A recrystallization from 190 proof ethanol (4 ml/g) and water (4 ml/g) gave 6.6 g of title compound, mp 170°-172° C.

reactant | 4-(sulfonyl)benzenesulfonyl chloride | 0.039 mole, 10 g | S(=O)(=O)=C1CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO4S2
reactant | butylamine | 0.12 mole, 8.8 g | C(CCC)N | C4H11N
reactant | acetonitrile | 7 ml | C(C)#N | C2H3N
product | N-Butyl-1,4-benzenedisulfonamide | 6.6 g, 70% yield | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C10H16N2O4S2
